US07858640B2
8-chloro-3-(4-chlorobenzyl)-5-hydroxy-2-methyl-1H-quinolin-4-one
A mixture of 3-amino-4-chlorophenol (2.5 g), 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester (4.7 g) and toluene-4-sulfonic acid (0.3 g) was heated at 160° C. under nitrogen for 10 hours. The mixture was cooled to room temperature and the residue triturated with methanol and then crystallised from butan-1-ol to afford a beige powder. Purification by column chromatography on silica gel, eluting with a mixture of ethyl acetate and dichloromethane (0:1 to 1:0 by volume) gave title compound as a yellow solid, 0.77 g.

reactant | 3-amino-4-chlorophenol | 2.5 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester | 4.7 g | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)Cl)=O | C13H15ClO3
reactant | toluene-4-sulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 8-chloro-3-(4-chlorobenzyl)-5-hydroxy-2-methyl-1H-quinolin-4-one | ClC=1C=CC(=C2C(C(=C(NC12)C)CC1=CC=C(C=C1)Cl)=O)O | C17H13Cl2NO2
